US03939166
4-Chloro-7-nitro-2,5-bis(trifluoromethyl)benzimidazole is reacted with 2-methylcyclohexylamine to obtain 4-(2-methylcyclohexylamino)-7-nitro-2,5-bis(trifluoromethyl)-benzimidazole, which is reacted with potassium ethoxide to yield the corresponding potassium salt, m.w., 448.4.

reactant | 4-Chloro-7-nitro-2,5-bis(trifluoromethyl)benzimidazole | ClC1=C(C=C(C=2N=C(NC21)C(F)(F)F)[N+](=O)[O-])C(F)(F)F | C9H2ClF6N3O2
reactant | 2-methylcyclohexylamine | CC1C(CCCC1)N | C7H15N
product | 4-(2-methylcyclohexylamino)-7-nitro-2,5-bis(trifluoromethyl)-benzimidazole | CC1C(CCCC1)NC1=C(C=C(C=2N=C(NC21)C(F)(F)F)[N+](=O)[O-])C(F)(F)F | C16H16F6N4O2
